US06486153B1
c) 2-Bromo-1-tert-butoxycarbonyl-3-[2-(piperidin-1-yl)prop-1-yl]-1H-indole
To a solution of 2,2,6,6-tetramethylpiperidine (5.3 ml, 31.6 mmol) in anhydrous tetrahydrofuran (50 ml) cooled to −78° C. under an atmosphere of nitrogen was added in a dropwise manner n-butyllithium (12.6 ml of a 2.5M solution in hexanes, 31.6mmol). On complete addition the reaction mixture was allowed to warm to 0° C. and stirred at this temperature for 5 minutes. Re-cooled to −78° C. and a solution of the 1-tert-butoxycarbonyl-3-[2-(piperidin-1-yl)prop-1-yl]-1H-indole in anhydrous tetrahydrofuran (50 ml) added via a cannula at such a rate that the temperature did not rise above −50° C. On complete addition the reaction mixture was stirred at −78° C. for 4 hours then 1,2-dibromotetrafluoroethane (3.78 ml, 31.6 mmol) added; the reaction mixture was allowed to warm to room temperature and stirred for 18 hours. The solvent was removed in vacuo and the residue purified by column chromatography on silica eluting with 2% CH3OH in CH2Cl2+0.5% 0.88 ammonia to give the title compound (1.5 g, 34%); δH (360 MHz; CDCl3) 1.32 (3H, d, J 6.7 Hz, CH3), 1.71 (9H, s, O2C(CH3)3), 2.99-3.05 (1H, m, indole CHAHB), 3.55-3.67 (1H, m, indole CHAHBCH), 3.74 (1H, d, J 13.2 Hz, indole CHAHB), 7.26-7.33 (2H, m, indole H5+H6), 7.92 (1H, dd, J 6.6 and 3.7 Hz, indole H4), 8.05 (1H, d, J 5.8 and 2.2 Hz, indole H7), piperidine protons very broad and merged into baseline; m/z (ES+) 421/423 (M++H, 100%).

reactant | 2,2,6,6-tetramethylpiperidine | 31.6 mmol, 5.3 ml | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-tert-butoxycarbonyl-3-[2-(piperidin-1-yl)prop-1-yl]-1H-indole | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)CC(C)N1CCCCC1 | C21H30N2O2
reactant | 1,2-dibromotetrafluoroethane | 31.6 mmol, 3.78 ml | BrC(C(Br)(F)F)(F)F | C2Br2F4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-Bromo-1-tert-butoxycarbonyl-3-[2-(piperidin-1-yl)prop-1-yl]-1H-indole | 1.5 g, 34% | BrC=1N(C2=CC=CC=C2C1CC(C)N1CCCCC1)C(=O)OC(C)(C)C | C21H29BrN2O2
